US05750702
14. Ethyl 4-oxo-5-ethyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine-3-carboxylate
To a stirred solution of potassium hydroxide (3.79 g, 67.6 mmol) in methyl alcohol (15 mL) under Nitrogen at 0° C. was added dropwise a solution of N-ethyl-2,4-piperidione (9.54 g, 67.6 mmol) in methyl alcohol (20 mL). The mixture was stirred at 0° C. for 1 hour, then a solution of ethyl bromopyruvate (8.9 mL, 71 mmol) in methyl alcohol(50 mL) was added dropwise. After allowing the mixture to stir at ambient temperature for 2.5 hours, a 50% aqueous sodium hydroxide solution (10 mL) was added dropwise and stirring continued an additional 17 hours. After cooling in an ice water bath, the solution was acididfied and the methanol removed in vacuo. Ice water was added and the precipitate filtered and dried in vacuo to afford 4-oxo-5-ethyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine-3-carboxylic acid (3.91 g). More acid (1.15 g) was obtained via extraction of the aqueous filtrate 2X wtih ethyl acetate, drying over magnesium sulfate, filtration, concentrating in vacuo, and purification on Silica gel (5% methyl alcohol/dichloromethane). A stirring mixture of 4-oxo-5-ethyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine-3-carboxylic acid (4.94 g, 23.6 mmol), potassium carbonate (9.79 g, 70.8 mmol), cesium carbonate (770 mg, 2.4 mmol), and iodoethane (9.4 mL, 118 mmol) in N,N-dimethylformamide was heated at 85° C. for 15.5 hours. The reaction mixture was cooled and concentrated in vacuo. Ethyl acetate was added, the mixture filtered, the filtrate washed with water, and the organic layer dried over magnesium sulfate, filtered, and concentrated in vacuo to give the title compound (4.5 g).

reactant | 4-oxo-5-ethyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine-3-carboxylic acid | 23.6 mmol, 4.94 g | O=C1N(CCC2=C1C(=CO2)C(=O)O)CC | C10H11NO4
reactant | potassium carbonate | 70.8 mmol, 9.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | cesium carbonate | 2.4 mmol, 770 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 118 mmol, 9.4 mL | ICC | C2H5I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-oxo-5-ethyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine-3-carboxylate | 4.5 g | O=C1N(CCC2=C1C(=CO2)C(=O)OCC)CC | C12H15NO4
